* C:\Users\jevaa\OneDrive\Desktop\CAPSTONE 770\GITHUB\capstone-project-compsys-team-6-1\LTSPICE\CourseExample.asc
* Generated by LTspice 24.1.9 for Windows.
R14 N005 N004 1k
R10 N004 Vbat 19k
R16 0 N004 1k
R8 N001 N002 1k
R13 N002 N003 1k
C2 N003 0 100n
V1 Vbat 0 60
V2 5V 0 5
I1 0 Ibat 3
X§U2 N005 N001 5V 0 N002 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U3 N009 N006 5V 0 N007 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R9 N009 Ibat 1k
R7 N007 N006 9k
R15 N006 0 1k
R11 N008 N007 1k
C1 N008 0 100n
R17||R1 Ibat 0 0.05
.tran 1s
.lib UniversalOpAmp1.lib
.backanno
.end
